US04372970
A solution of bromine (8.4 g, 0.0525 mol) in carbon disulphide (75 cm3) was added dropwise to a stirred solution of 6-methylbenzofuran (7.64 g, 0.0516 mol) in carbon disulphide (125 cm3) at below 10° C. The solvent was removed and the residue was heated at 150° C. for 1.5 hr. under reduced pressure. The residue was subjected to column chromatography on silica using petroleum ether (b.p. 60°-80° C.) as the eluant. The solvent was removed from the appropriate fractions to give 2-bromo-6-methylbenzofuran (11.0 g, 0.051 mol; 98.2%) RF 0.80.

reactant | bromine | 0.0525 mol, 8.4 g | BrBr | Br2
reactant | 6-methylbenzofuran | 0.0516 mol, 7.64 g | CC1=CC2=C(C=CO2)C=C1 | C9H8O
solvent | carbon disulphide | 75 cm3 | C(=S)=S | CS2
solvent | carbon disulphide | 125 cm3 | C(=S)=S | CS2
product | 2-bromo-6-methylbenzofuran | 0.051 mol, 11.0 g, 98.2% | BrC=1OC2=C(C1)C=CC(=C2)C | C9H7BrO
